US08648066B2
Phenylmethyl[(1S)-1-(6-{4-[(7S)-7-ethyl-2-methyl-5,6,7,8-tetrahydroquinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}-1H-imidazo[4,5-b]pyridin-2-yl)ethyl]carbamate.
Prepared according to the method of example 5 by using phenylmethyl{(1S)-1-[6-bromo-3-({[2-(trimethylsilyl)ethyl]oxy}methyl)-3H-imidazo[4,5-b]pyridin-2-yl]ethyl}({[2-(trimethylsilyl)ethyl]oxy}methyl)carbamate (reagent preparation 19) and {4-[(7S)-7-ethyl-2-methyl-5,6,7,8-tetrahydroquinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}boronic acid (reagent preparation 23) in step 1. 1H NMR (400 MHz, Methanol-d4): 8.54 (br, 1H), 8.05 (br, 1H), 7.61 (s, 1H), 7.48 (d, 1H), 7.41 to 7.29 (m, 5H), 7.09 (d, 1H), 4.77 (d, 2H), 4.61 (d, 2H), 4.43 (m, 1H), 4.20 (m, 1H), 4.04 (m, 1H), 3.95 (m, 1H), 3.88 (s, 3H), 3.29 (m, 1H), 2.87 (m, 1H), 2.78 (m, 1H), 2.60 (m, 1H), 2.35 (s, 3H), 2.29 (m, 1H), 1.96 (m, 1H), 1.69 (m, 1H), 1.63 (d, 3H), 1.41 (m, 2H), 1.16 (m, 1H), 0.99 (t, 3H); MS (EI) for C36H39N7O3: 618 (MH+).

reactant | phenylmethyl{(1S)-1-[6-bromo-3-({[2-(trimethylsilyl)ethyl]oxy}methyl)-3H-imidazo[4,5-b]pyridin-2-yl]ethyl}({[2-(trimethylsilyl)ethyl]oxy}methyl)carbamate | C1(=CC=CC=C1)COC(N(COCC[Si](C)(C)C)[C@@H](C)C1=NC=2C(=NC=C(C2)Br)N1COCC[Si](C)(C)C)=O | C28H43BrN4O4Si2
reactant | {4-[(7S)-7-ethyl-2-methyl-5,6,7,8-tetrahydroquinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}boronic acid | C(C)[C@H]1CCC=2C(=NC(=NC2C1)C)N1CCOC2=C(C1)C=C(C=C2)B(O)O | C20H26BN3O3
product | Phenylmethyl[(1S)-1-(6-{4-[(7S)-7-ethyl-2-methyl-5,6,7,8-tetrahydroquinazolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}-1H-imidazo[4,5-b]pyridin-2-yl)ethyl]carbamate | C1(=CC=CC=C1)COC(N[C@@H](C)C=1NC=2C(=NC=C(C2)C=2C=CC3=C(CN(CCO3)C3=NC(=NC=4C[C@H](CCC34)CC)C)C2)N1)=O | C36H39N7O3
